US09388189B2
a) 3-Fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline
3-Bromo-5-fluoroaniline (0.90 g, 4.74 mmol) was treated with bis(pinacolato)diboron (1.80 g, 7.09 mmol), potassium acetate (1.39 g, 14.20 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.39 g, 0.48 mmol) in 1,4-dioxane (24 ml) according to the method described in Preparation 174a. The residue was purified using SP1® Purification System (0% to 40% hexane-ethyl acetate) to obtain 0.84 g (68% yield, 91% purity) of the title compound.

reactant | 3-Bromo-5-fluoroaniline | 4.74 mmol, 0.90 g | BrC=1C=C(N)C=C(C1)F | C6H5BrFN
reactant | bis(pinacolato)diboron | 7.09 mmol, 1.80 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 14.20 mmol, 1.39 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 24 ml | O1CCOCC1 | C4H8O2
product | 3-Fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 68% yield | FC=1C=C(N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C12H17BFNO2
